US08536165B2
C. 5-Cyclopropyl-2-(2-(2-cyclopropylphenyl)pyrimidin-5-ylamino)benzoic acid
In a schlenck tube, a mixture of 2-(2-(2-chlorophenyl)pyrimidin-5-ylamino)-5-cyclopropylbenzoic acid (0.55 mmol, 0.200 g), cyclopropylboronic acid (0.71 mmol, 0.061 g), K3PO4 (1.86 mmol, 0.395 g), PCy3 (0.05 mmol, 0.015 g) and Pd(AcO)2 (0.03 mmol, 0.006 g) in a mixture of toluene/water 6:1 (6 ml) was heated at 110° C. for 72 hours, under argon atmosphere. The crude mixture was poured into water and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and the solvent removed. The crude mixture was purified by reverse phase chromatography eluting with a gradient of 100% water to 100% MeOH/AcN 1:1 affording 0.016 g (71% of yield).

reactant | 2-(2-(2-chlorophenyl)pyrimidin-5-ylamino)-5-cyclopropylbenzoic acid | 0.55 mmol, 0.200 g | ClC1=C(C=CC=C1)C1=NC=C(C=N1)NC1=C(C(=O)O)C=C(C=C1)C1CC1 | C20H16ClN3O2
reactant | cyclopropylboronic acid | 0.71 mmol, 0.061 g | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 1.86 mmol, 0.395 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | PCy3 | 0.05 mmol, 0.015 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene water | 6 ml | C1(=CC=CC=C1)C.O
solvent | water | O | H2O
product | 5-Cyclopropyl-2-(2-(2-cyclopropylphenyl)pyrimidin-5-ylamino)benzoic acid | C1(CC1)C=1C=CC(=C(C(=O)O)C1)NC=1C=NC(=NC1)C1=C(C=CC=C1)C1CC1 | C23H21N3O2
